US03940259
Preparation of N-(1,3-Dioxepan-2-ylmethyl)-2,6-diethylaniline
2,6-Diethylaniline (75 grams), 2-chloromethyl1,3-dioxepane (15 grams), potassium carbonate (34 grams) and dimethylformamide (60 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated at reflux for a period of about 18 hours. After this time the mixture is filtered and distilled to yield the desired product N-(1,3-dioxepan-2-ylmethyl)-2,6-diethylaniline.

reactant | 2,6-Diethylaniline | 75 grams | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | 2-chloromethyl1,3-dioxepane | 15 grams | ClCC1OCCCCO1 | C6H11ClO2
reactant | potassium carbonate | 34 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-(1,3-dioxepan-2-ylmethyl)-2,6-diethylaniline | O1C(OCCCC1)CNC1=C(C=CC=C1CC)CC | C16H25NO2
